US09255096B1
3,4-dimethoxyphenyl isocyanate
A 3 L, three-necked, round-bottomed flask was equipped with a heating/cooling bath, magnetic stirrer and stir bar, condenser, 500 mL addition funnel, thermocouple, nitrogen inlet, heating bath, vacuum distillation apparatus. To a stirred solution of 3,4-dimethoxyaniline (81.9 g, 535 mmol) in xylenes (1400 mL) was added via the addition funnel, a 4 N solution of hydrogen chloride in 1,4-dioxane (295 mL, 1180 mmol) at ambient temperature. This mixture was stirred at ˜25° C. for 30 minutes, before it was heated to reflux under a slow N2 stream. Neat triphosgene (200.0 g, 674 mmol) was added to the refluxing stirred mixture in portions via the addition funnel over 45 minutes. Upon completion of the addition, the batch was refluxed for another hour. After cooling to ˜60° C., the batch was concentrated under reduced pressure to remove most of the solvent. The oily residue was distilled under high vacuum (b.p. 84-88° C. @ 0.92 mmHg) to afford the title compound as an oil (93.0 g, 97%).

reactant | 3,4-dimethoxyaniline | 535 mmol, 81.9 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 1180 mmol, 295 mL | O1CCOCC1 | C4H8O2
reactant | triphosgene | 674 mmol, 200.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | 3,4-dimethoxyphenyl isocyanate | 93.0 g, 97% | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
